US04939241
To a mixture of O-[3(R)-acetoxy-2(S)-amino-1-oxobutyl]-N-trifluoroacetyl-L-serine (200 mg) and chloroacetic acid (0.015 ml) in water (2ml) was added sodium nitrite (80 mg) at room temperature. After stirring for 0.5 hour at room temperature, acetic acid was added and the mixture was extracted with ethyl acetate (3 times) and the ethyl acetate extracts were combined and washed with brine. After drying over sodium sulfate, the ethyl acetate extract was filtered and concentrated. The residue was chromatographed on preparative thin layer chromatography to give O-[3(R)-acetoxy-2-diazo-1-oxobutyl]-N-trifluoroacetyl-L-serine (8 mg).

reactant | O-[3(R)-acetoxy-2(S)-amino-1-oxobutyl]-N-trifluoroacetyl-L-serine | 200 mg | C(C)(=O)O[C@@H]([C@@H](C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O)N)C | C11H15F3N2O7
reactant | chloroacetic acid | 0.015 ml | ClCC(=O)O | C2H3ClO2
reactant | sodium nitrite | 80 mg | N(=O)[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 2ml | O | H2O
product | O-[3(R)-acetoxy-2-diazo-1-oxobutyl]-N-trifluoroacetyl-L-serine | 8 mg | C(C)(=O)O[C@@H](C(C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)O)=[N+]=[N-])C | C11H12F3N3O7
